** Sheet_1 **
xH4 GND PC3 PA0 PA1 PA2 MOSD4 MOSD3 MOSD2 MOSD1 IC_CCCS_H4
xH3 +3.3V +5V +5V PA3 PA4 PA5 PA6 PA7 PC4 IC_CCCS_H3
L1 +3.3V +3.3AV 27N
C11 +3.3AV GND 1U
C10 +3.3AV GND 0.1U
xH2 PC5 PB0 PB1 PB2 PB10 PB11 PB12 PB13 PB14 PB15 PC6 PC7 PC8 PC9 PA11 PA12 IC_CCCS_H2
xH1 PA15 PC10 PC11 PC12 PD2 PB3 PB4 PB5 PB8 PB9 PC13 PC14 PC15 PC0 PC1 PC2 IC_CCCS_H1
R8 R8_1 PA10 50
R7 R7_1 PA9 50
R6 R6_1 PA8 50
R5 PC3 GND 10K
R4 PC2 GND 10K
R3 GND PC5 10K
R2 PC4 GND 10K
Q2 GND PC4 GND PC5 Q2_5 MOSD4 Q2_7 MOSD3 IRF7311TR
XU4 NoNet NoNet NoNet NoNet NoNet NoNet NoNet STLINKCONSOL
C8 GND +3.3V 0.1U
C9 GND +3.3V 4.7U
C7 GND +3.3V 0.1U
C6 GND +3.3V 0.1U
C5 GND +3.3V 0.1U
C4 GND +3.3V 0.1U
C3 GND NRST 0.1U
R1 BOOT0 R1_2 10K
C2 RCC_OUT GND 56P
C1 RCC_IN GND 56P
X1 RCC_IN RCC_OUT 8MHZ
XUBOOT1 NoNet NoNet NoNet SSW32
SW1 NRST SW1_2 GND SW1_4 SW_SW1 OFF
Q1 GND PC2 GND PC3 Q1_5 MOSD2 Q1_7 MOSD1 IRF7311TR
XU3 GND +3.3V +5V U3_4 AMS1117
XU2 GND GND GND R6_1 R7_1 R8_1 TRI-COLOR LED SMD
XU1 +3.3V PC13 PC14 PC15 RCC_IN RCC_OUT NRST PC0 PC1 PC2 PC3 GND +3.3AV PA0 PA1 PA2 PA3 NoNet +3.3V PA4 PA5 PA6 PA7 PC4 PC5 PB0 PB1 PB2 PB10 PB11 GND +3.3V PB12 PB13 PB14 PB15 PC6 PC7 PC8 PC9 PA8 PA9 PA10 PA11 PA12 SWDIO U1_47 +3.3V SWCLK PA15 PC10 PC11 PC12 PD2 PB3 PB4 PB5 UART1_TX UART1_RX BOOT0 PB8 PB9 NoNet +3.3V STM32F405RGT6
C12 +3.3V U1_31 2.2U
C13 +3.3V U1_47 2.2U
V465 +5V GND +5V
.SUBCKT IC_CCCS_H4 2 1 4 3 
V1 2 1 dc 0
H0 4 3 v1 HDR-F-2.54_1X9
.ends
.SUBCKT IC_CCCS_H3 2 1 4 3 
V1 2 1 dc 0
H0 4 3 v1 HDR-F-2.54_1X9
.ends
.SUBCKT IC_CCCS_H2 2 1 4 3 
V1 2 1 dc 0
H0 4 3 v1 HDR-F-2.54_1X16
.ends
.SUBCKT IC_CCCS_H1 2 1 4 3 
V1 2 1 dc 0
H0 4 3 v1 HDR-F-2.54_1X16
.ends




.model SW_SW1 sw vh=undefined vt=undefined ron=undefined roff=undefined




.tran 10m